US06989402B1
3,5-Dimethyl-4-(4-hydroxy-3-isopropylphenoxy)benzyltetrazole
To a stirred solution of 3,5-dimethyl-4-(4-hydroxy-3-isopropylphenoxy)-phenylacetonitrile (154 mg) in 6.3 ml of dimethyl formamide, ammonium chloride (297 mg, 5.21 mmol) and sodium azide (339 mg, 5.21 mmol) was added at reflux. After 4.5 hours the reaction mixture was concentrated, treated with 6 M hydrochloric acid and extracted several times with ethyl acetate. The combined organic phases were dried over magnesium sulphate, filtered and concentrated. The residue was purified by column chromatography (silica gel, 96:4:1 chloroform/methanol/acetic acid) to give 68 mg (37%) of the title compound.

reactant | 3,5-dimethyl-4-(4-hydroxy-3-isopropylphenoxy)-phenylacetonitrile | 154 mg | CC=1C=C(C=C(C1OC1=CC(=C(C=C1)O)C(C)C)C)CC#N | C19H21NO2
reactant | ammonium chloride | 5.21 mmol, 297 mg | [Cl-].[NH4+]
reactant | sodium azide | 5.21 mmol, 339 mg | [N-]=[N+]=[N-].[Na+]
solvent | dimethyl formamide | 6.3 ml | CN(C=O)C | C3H7NO
product | 3,5-Dimethyl-4-(4-hydroxy-3-isopropylphenoxy)benzyltetrazole | 68 mg, 37% | CC=1C=C(CC2=NN=NN2)C=C(C1OC1=CC(=C(C=C1)O)C(C)C)C | C19H22N4O2
